US07329662B2
To stirred solution of 3-dimethylamino-2-(2-methyl-pyridin-4-yl)-acrylonitrile (1.8 g, 9.61 mmol) in ethanol (18 ml) was added at room temperature hydrazine monohydrate (1.03 ml, 21.1 mmol), the reaction mixture was heated under reflux conditions for 16 h and evaporated. Purification by column chromatography on silica gel (dichloromethane/methanol/NH4OH 80:10:1) and crystallization from diethyl ether yielded 4-(2-methyl-pyridin-4-yl)-2H-pyrazol-3-ylamine (0.6 g, 36%) as an orange solid. MS (ISP) 175.1 [(M+H)+]; mp 230° C.

reactant | 3-dimethylamino-2-(2-methyl-pyridin-4-yl)-acrylonitrile | 9.61 mmol, 1.8 g | CN(C=C(C#N)C1=CC(=NC=C1)C)C | C11H13N3
reactant | hydrazine monohydrate | 21.1 mmol, 1.03 ml | O.NN
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 4-(2-methyl-pyridin-4-yl)-2H-pyrazol-3-ylamine | 0.6 g, 36% | CC1=NC=CC(=C1)C1=C(NN=C1)N | C9H10N4
